US08404836B2
0.9 g (23 mmol) of 60% sodium hydride is added in portions to a previously cooled solution of 4 g (19 mmol) of (4-hydroxy-3-methoxy-phenyl)-ethyl acetate in 20 ml of tetrahydrofuran and 20 ml of dimethylformamide. After stirring at room temperature for 45 minutes, 2.4 ml (21 mmol) of 1-chloromethoxy-2-methoxy-ethane is added dropwise. After stirring at room temperature for 1 hour, water and ethyl acetate are added. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. 5.5 g (97%) of [3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl acetate is obtained.

reactant | sodium hydride | 23 mmol, 0.9 g | [H-].[Na+]
reactant | (4-hydroxy-3-methoxy-phenyl)-ethyl acetate | 19 mmol, 4 g | C(C)(=O)OCCC1=CC(=C(C=C1)O)OC | C11H14O4
reactant | 1-chloromethoxy-2-methoxy-ethane | 21 mmol, 2.4 ml | ClCOCCOC | C4H9ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl acetate | 5.5 g, 97% | C(C)(=O)OCCC1=CC(=C(C=C1)OCOCCOC)OC | C15H22O6
